US06495546B1
A stirred solution of (2S)-1-phenoxy-2,3-epoxypropane (1.0 g) and concentrated ammonium hydroxide (10 ml) in ethanol (10 ml) was sealed up at room temperature for 12 hours. The mixture was evaporated in vacuo and dried to give (2S)-1-amino-3-phenoxy-2-propanol (1.1 g).

reactant | (2S)-1-phenoxy-2,3-epoxypropane | 1.0 g | O(C1=CC=CC=C1)C[C@@H]1CO1 | C9H10O2
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2S)-1-amino-3-phenoxy-2-propanol | 1.1 g | NC[C@@H](COC1=CC=CC=C1)O | C9H13NO2
